US04816473
7-(4-Methylbenzoyl)-2,3-dihydrobenzofuran-5-ylacetic acid (1.0 g) was dissolved in dioxane (20 ml). To this was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (1.2 g) and the solution heated at reflux for 1 hour. The reaction mixture was added to water and extracted with ethyl acetate, dried with magnesium sulfate and evaporated to dryness. The residue was run on a silica gel column eluting with ethyl acetate/hexane to give ethyl(7-(4-methylbenzoyl)-benzofuran-5-yl) acetate. The acetate was hydrolyzed by the same method set out in Example 3 to give (7-(4-methylbenzoyl)benzofuran-5-yl) acetic acid melting points. This method is especially useful when the 2,3-dihydro starting material contains an alkyl group.

reactant | 7-(4-Methylbenzoyl)-2,3-dihydrobenzofuran-5-ylacetic acid | 1.0 g | CC1=CC=C(C(=O)C2=CC(=CC=3CCOC32)CC(=O)O)C=C1 | C18H16O4
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.2 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | water | O | H2O
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | ethyl(7-(4-methylbenzoyl)-benzofuran-5-yl) acetate | C(C)(=O)OC=1C=C(C2=C(C=C(O2)CC)C1)C(C1=CC=C(C=C1)C)=O | C20H18O4
